US08076487B2
(1) Production of 1,2-dihydro-1-methyl-2-oxo-6-(trifluoromethyl)pyridine-3-carboxylic acid methyl ester
1,2-dihydro-1-methyl-2-oxo-6-(trifluoromethyl)pyridine-3-carboxylic acid (114.0 g, 0.52 mol) was dissolved in dichloromethane (500 mL), and oxalyl chloride (99 g, 0.78 mol) was added thereto at room temperature. Thereto, N,N′-dimethylformamide (1 mL) was added, and the mixture was refluxed for 2 hours under heating. The solvent was distilled off, acetonitrile (500 mL) was added, and a mixture of methanol (33 g, 1.03 mol) and triethylamine (104 g, 1.03 mol) was added dropwise under ice cooling. After the 2 hours reaction at room temperature, the solvent was distilled off, an aqueous sodium bicarbonate solution was added, and extraction with chloroform was subjected. The organic layer was washed with an aqueous solution of citric acid and water, dried, and concentrated. Thus obtained oily product was purified by column chromatography (elution solvent: hexane/ethyl acetate=4/1 to 1/1) to obtain 113.5 g of a desired product (yield: 94%).

reactant | 1,2-dihydro-1-methyl-2-oxo-6-(trifluoromethyl)pyridine-3-carboxylic acid | 0.52 mol, 114.0 g | CN1C(C(=CC=C1C(F)(F)F)C(=O)O)=O | C8H6F3NO3
reactant | oxalyl chloride | 0.78 mol, 99 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methanol | 1.03 mol, 33 g | CO | CH4O
reactant | triethylamine | 1.03 mol, 104 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | N,N′-dimethylformamide | 1 mL | CN(C)C=O | C3H7NO
product | 1,2-dihydro-1-methyl-2-oxo-6-(trifluoromethyl)pyridine-3-carboxylic acid methyl ester | 113.5 g, yield: 94% | COC(=O)C=1C(N(C(=CC1)C(F)(F)F)C)=O | C9H8F3NO3
